US07732477B2
Methyl6-cyano-1-benzothiophene-2-carboxylate
4.08 g (23.2 mmol) of 4-cyano-2-nitrobenzaldehyde, 2.46 g (23.2 mmol) of methyl mercaptoacetate and 6.46 ml (46.4 mmol) of triethylamine in 12.3 ml of DMSO are heated at 80° C. for 2.5 h. The reaction solution is poured into 400 ml of ice-water. After addition of 4 ml of acetic acid, the resulting precipitate is filtered off with suction, washed twice with water and dried at 50° C. under reduced pressure overnight. This gives 4.19 g (83.2% of theory) of the title compound.

reactant | 4-cyano-2-nitrobenzaldehyde | 23.2 mmol, 4.08 g | C(#N)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H4N2O3
reactant | methyl mercaptoacetate | 23.2 mmol, 2.46 g | SCC(=O)OC | C3H6O2S
reactant | triethylamine | 46.4 mmol, 6.46 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | DMSO | 12.3 ml | CS(=O)C | C2H6OS
product | Methyl6-cyano-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=CC(=C2)C#N | C11H7NO2S
